US06187918B1
A vial was charged with aminoalcohol A (0.0063 g, 0.026 mmol). To the vial was added 1.68 mL of a stock solution containing trans-2-pentenal (0.34 g), t-butylbenzene internal standard (0.25 g), 1 M diethylzinc in hexane (8.0 mL), and toluene (4.0 mL). After 48 h acetic anhydride (0.200 mL) was added. After an additional 72 h a sample of the solution was analyzed by gas chromatography at 80° C. on a Cyclodex B stationary phase. The product trans-4-hepten-3-yl acetate was formed 87% enantiomeric excess.

reactant | aminoalcohol | NO | H3NO
reactant | trans-2-pentenal | 0.34 g | C(\C=C\CC)=O | C5H8O
reactant | t-butylbenzene | C(C)(C)(C)C1=CC=CC=C1 | C10H14
reactant | diethylzinc | 1 M | C(C)[Zn]CC
reactant | acetic anhydride | 0.200 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | hexane | 8.0 mL | CCCCCC | C6H14
solvent | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
product | trans-4-hepten-3-yl acetate | C(C)(=O)OC(CC)\C=C\CC | C9H16O2
